US20010020089A1
6-[(2,2-Diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile
A solution of 2-chloro-N-(2,2-diphenylethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine (Preparation 2) (1.0 g, 2.31 mmol), zinc cyanide (0.162 g, 1.38 mmol), triethylamine (0.28 g, 2.77 mmol) and tetrakis(triphenylphosphine)-palladium(0) (0.133 g, 0.12 mmol) in N,N-dimethylformamide (3 ml) was heated under a nitrogen atmosphere at 100° C. for 6 hours. The reaction mixture was allowed to cool and partitioned between ethyl acetate (100 ml) and 2 M sodium hydroxide solution (100 ml). The organic layer was separated, dried over anhydrous magnesium sulphate and evaporated under reduced pressure. The resulting 1:1 mixture of 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile and 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile (Preparation 8) were separated by column chromatography on silica gel eluting with a gradient system of ethyl acetate:hexane (40:60 by volume) gradually changing to ethyl acetate:hexane (60:40 by volume) to give the title compound as a white solid (0.4 g).

reactant | 2-chloro-N-(2,2-diphenylethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 2.31 mmol, 1.0 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClN5O
reactant | triethylamine | 2.77 mmol, 0.28 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 1.38 mmol, 0.162 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.12 mmol, 0.133 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-[(2,2-Diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile | 0.4 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C#N)C1OCCCC1)C1=CC=CC=C1 | C25H24N6O
